US06388118B1
Synthesis of 4,4-bis-indenyl-1-methyl-piperidine
0.25 mole of indene was added within 0.5 hours under vigorous stirring to the suspension of 15 g of KOH powder in 150 ml of DME. The mixture was heated to reflux. Then 0.1 mole of 1-methylpiperidone dissolved in 10 ml of DME was added dropwise within 0.5 hours and the mixture was stirred under reflux for additional 2 hours. The resulting mixture was cooled, treated by 200 ml of diluted phosphoric acid till the neutralization and by 100 ml of Et2O. The organic layer was separated and treated by 20% excess of diluted acetic acid. The aqueous layer was separated, washed twice with Et2O and neutralissed with a diluted alkali solution. The 4,4-bis-indenyl-1-methyl-piperidine was extracted with CH2Cl2, the organic layer was separated, the solvent was removed and the residue was recrystallized from hexane. The yield of the 4,4-bis-indenyl-1-1methyl-piperidine was 67%. 1H NMR (C6D6, 30° C.) δ: 7.57(d,2H); 7.20(d,2H); 7.04(t,2H); 6.97(t,2H); 6.28(s,2H); 3.08(s,4H); 2.58(m,4H); 2.44(m,4H); 2.17(s,3H).

reactant | indene | 0.25 mole | C1C=CC2=CC=CC=C12 | C9H8
reactant | KOH | 15 g | [OH-].[K+]
reactant | 1-methylpiperidone | 0.1 mole | CN1C(CCCC1)=O | C6H11NO
reactant | phosphoric acid | 200 ml | P(O)(O)(O)=O | H3O4P
solvent | DME | 150 ml | COCCOC | C4H10O2
solvent | DME | 10 ml | COCCOC | C4H10O2
solvent | Et2O | 100 ml | CCOCC | C4H10O
product | 4,4-bis-indenyl-1-methyl-piperidine | C1(C=CC2=CC=CC=C12)C1(CCN(CC1)C)C1C=CC2=CC=CC=C12 | C24H25N
